US05932595
To a solution of (R)-2-amino-N-tert-butoxy-3-(4-phenoxyphenylsulfonyl)-propionamide (1.9 g) in methylene chloride (30 ml) was added CBZ-(S)-valine (1.6 g), 1-hydroxybenzotriazole (0.9 g), triethylamine (1 ml), and N'-ethyl-N'-(3-dimethylaminopropyl)-carbodiimide (1.3 g). After stirring overnight at room temperature, the solution was partitioned between methylene chloride and water, and after the organic layer was dried over magnesium sulfate, solvent was removed under reduced pressure to give (R)-N-tert-butoxy-2-(CBZ-valinamido)-3-(4-phenoxyphenylsulfonyl)-propionamide, which was used without further purification.

reactant | (R)-2-amino-N-tert-butoxy-3-(4-phenoxyphenylsulfonyl)-propionamide | 1.9 g | N[C@H](C(=O)NOC(C)(C)C)CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C19H24N2O5S
reactant | CBZ-(S)-valine | 1.6 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | 1-hydroxybenzotriazole | 0.9 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (R)-N-tert-butoxy-2-(CBZ-valinamido)-3-(4-phenoxyphenylsulfonyl)-propionamide | C(C)(C)(C)ONC([C@H](CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)NC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C32H39N3O8S
